US06174881B1
A solution of 3.8 ml of trifluoroacetic acid anhydride in 7.3 ml of dichloromethane was added dropwise to a solution, cooled with dry ice/acetone, of 2.7 ml of dimethyl sulphoxide in 18 ml of dichloromethane was added in such a manner that the temperature did not exceed −55° C. After stirring in the cold for 30 min. a solution of 7.54 g of methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-hydroxybutyrate in 15 ml of dichloromethane was added dropwise in a manner such that the temperature did not exceed −60° C. The mixture was stirred in a dry ice bath for 2 h., then brought to −30° C. for 5 min. and subsequently again cooled in a dry ice bath. After the slow addition of 7.5 ml of triethylamine the mixture was stirred, firstly in the cold for a further 30 min., then at room temperature for 30 min. For the working up the mixture was extracted with 30 ml of water. The organic phase was dried over magnesium sulphate, concentrated in a vacuum and purified by chromatography on 350 g of silica gel. Byproducts were eluted with dichloromethane containing 1% methanol. With dichloromethane containing 3% methanol there were isolated 5.56 g (74%) of methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-oxo-butyrate which was used without further purification for the step described below.

reactant | trifluoroacetic acid anhydride | 3.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | dimethyl sulphoxide | 2.7 ml | CS(=O)C | C2H6OS
reactant | methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-hydroxybutyrate | 7.54 g | ClC=1C=CC2=C(C(=NCC(=N2)NC(C(=O)OC)C(C)O)C2=C(C=CC=C2)F)C1 | C20H19ClFN3O3
solvent | dichloromethane | 7.3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
product | methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-oxo-butyrate | 5.56 g, 74% | ClC=1C=CC2=C(C(=NCC(=N2)NC(C(=O)OC)C(C)=O)C2=C(C=CC=C2)F)C1 | C20H17ClFN3O3
